US05583146
A. N-[[(t-Butoxy)-carbonyl]-L-alanyl]-L-proline methyl ester
To a solution of N-BOC-L-alanine (150 mmol) in DMF (250 mL) at 0° C., is added proline methyl ester. HCl (150 mmol), 1-hydroxybenzotriazole hydrate (22.2 g, 0.164 mmol), ethyl-3-(3-dimethylamino)propyl carbodiimide.HCl (31.4 g, 0.164 mmol) and 4-methylmorpholine (22.6 g, 0.224 mmol). The reaction mixture is stirred for 12 h while allowing the reaction to warm to room temperature. The reaction mixture is poured in water (750 mL) and extracted with ethyl acetate (2×150 mL). The combined organic extracts are washed as follows: KHSO4 (0.25M, 2×50 mL), water (1×50 mL), saturated aqueous NaHCO3 (2×50 mL) and saturated NaCl (1×50 mL). The organic layer is dried over MgSO4, filtered and the solvent removed in vacuo to give title compound.

reactant | N-BOC-L-alanine | 150 mmol | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | 1-hydroxybenzotriazole hydrate | 0.164 mmol, 22.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | HCl | 0.164 mmol, 31.4 g | Cl | ClH
reactant | 4-methylmorpholine | 0.224 mmol, 22.6 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | water | 750 mL | O | H2O
product | N-[[(t-Butoxy)-carbonyl]-L-alanyl]-L-proline methyl ester | COC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)C)=O)=O | C14H24N2O5
